US05739153
8-t-Butyl-2-(cyclohexylaminomethyl)-1,4-dioxaspiro[4.5]decane
6.5 g (0.0250 mol) of 8-t-butyl-2-chloromethyl-1,4-dioxaspiro[4.5]decane and 4.6 g (0.0450 mol) of cyclohexylamine are dissolved in 50 of 95% ethanol in the presence of 5.65 g (0.040 mol) of K2CO3 and 0.42 g (0.0025 mol) of KI in an autoclave. The mixture is heated to 180° C. for 8 hours with stirring. After returning to room temperature, the reaction medium is poured into 500 ml of water and extracted with 200 ml of CH2Cl2. The organic phase is dried over magnesium sulphate and concentrated under vacuum. The brown oil is used directly in the following step (yield: 98%; NMR analysis).

reactant | 8-t-butyl-2-chloromethyl-1,4-dioxaspiro[4.5]decane | 0.0250 mol, 6.5 g | C(C)(C)(C)C1CCC2(OCC(O2)CCl)CC1 | C13H23ClO2
reactant | cyclohexylamine | 0.0450 mol, 4.6 g | C1(CCCCC1)N | C6H13N
reactant | K2CO3 | 0.040 mol, 5.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 8-t-Butyl-2-(cyclohexylaminomethyl)-1,4-dioxaspiro[4.5]decane | yield: 98% | C(C)(C)(C)C1CCC2(OCC(O2)CNC2CCCCC2)CC1 | C19H35NO2
